US09340544B2
(2-Chloro-9H-purin-6-yl)-cyclohexyl-amine (1.0 g, 3.47 mmol), 3,5-dimethylpyrazole (834 mg, 8.68 mmol) and acetonitrile (10 mL) were mixed in a sealed vial and heated in a microwave oven at 200° C. for 50 min. Water was added and the precipitate was collected by filtration. The crude product was purified by flash chromatography (dichloromethane/methanol) to give cyclohexyl-[2-(3,5-dimethyl-pyrazol-1-yl)-9H-purin-6-yl]-amine (210 mg, 19%) as a white powder.

reactant | (2-Chloro-9H-purin-6-yl)-cyclohexyl-amine | 3.47 mmol, 1.0 g | ClC1=NC(=C2N=CNC2=N1)NC1CCCCC1 | C11H14ClN5
reactant | 3,5-dimethylpyrazole | 8.68 mmol, 834 mg | CC1=NNC(=C1)C | C5H8N2
reactant | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | Water | O | H2O
product | cyclohexyl-[2-(3,5-dimethyl-pyrazol-1-yl)-9H-purin-6-yl]-amine | 210 mg, 19% | C1(CCCCC1)NC1=C2N=CNC2=NC(=N1)N1N=C(C=C1C)C | C16H21N7
